US07491716B2
7-bromo-5-(tetrahydropyran-2-yloxy)benzofuran
Combine 7-bromo-5-hydroxybenzofuran (5.0 g, 0.0235 mol) with pyridinium para-toluenesulfonate (0.59 g, 0.1 equivalent) and dissolve in 60 mL dichloromethane under nitrogen. Add via syringe 3,4-dihydro-2H-pyran (3,2 mL, 1.5 equivalents) and stir at 20° C. overnight. Dilute with dichloromethane then extract with 1N sodium hydroxide and wash with brine. Dry over sodium sulfate, filtered, and then concentrate to afford the title compound as a brown oil.

reactant | 7-bromo-5-hydroxybenzofuran | 0.0235 mol, 5.0 g | BrC1=CC(=CC=2C=COC21)O | C8H5BrO2
reactant | pyridinium para-toluenesulfonate | 0.59 g, 0.1 equivalent | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 3,2 mL, 1.5 equivalents | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 7-bromo-5-(tetrahydropyran-2-yloxy)benzofuran | BrC1=CC(=CC=2C=COC21)OC2OCCCC2 | C13H13BrO3
